US09034900B2
Step 1: 3-bromo-2-(2,4-difluorophenoxy)-5-nitropyridine
A solution of 3-bromo-2-chloro-5-nitropyridine (2.4 g, 10 mmol) and 2,4-difluorophenol (1 mL, 11 mmol) in NMP (20 ml) was treated with cesium carbonate (3.9 g, 12 mmol). The resulting mixture was heated to 60° C. for 12 h. The mixture was treated with water (100 ml) and extracted with EtOAc (3×50 ml); the combined organic extracts were washed with saturated bicarbonate solution (aq), dried over sodium sulfate, filtered and concentrated in vacuo to afford a yellow solid. The solid was purified by silica gel column chromatography (gradient of 5 to 30% EtOAc in hexanes) to afford the free base of the title compound (2 g, 59%) as a yellow solid. LCMS (M+H)+=332.

reactant | 3-bromo-2-chloro-5-nitropyridine | 10 mmol, 2.4 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])Cl | C5H2BrClN2O2
reactant | 2,4-difluorophenol | 11 mmol, 1 mL | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | cesium carbonate | 12 mmol, 3.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 100 ml | O | H2O
solvent | NMP | 20 ml | CN1CCCC1=O | C5H9NO
product | 3-bromo-2-(2,4-difluorophenoxy)-5-nitropyridine | 2 g, 59% | BrC=1C(=NC=C(C1)[N+](=O)[O-])OC1=C(C=C(C=C1)F)F | C11H5BrF2N2O3
